US09403835B2
(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-(2-methylamino-propoxy)-phenyl]-methanone
A mixture of Pd(dba)2 (5.2 mg; 0.01 mmol; 0.05 eq.) and 1,4-bis(diphenylphosphino)butane (3.8 mg; 0.01 mmol; 0.05 eq.) in THF (1 mL) was stirred for 10 minutes then added to a solution of {2-[2-(allyl-methyl-amino)-propoxy]-4-fluoro-phenyl}-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone (85 mg; 0.18 mmol; 1 eq.) in THF (3 mL) followed by 2-mercapto-benzoic acid (31 mg; 0.20 mmol; 1.1 eq.) and the reaction mixture was stirred at 60° C. for 2 hours. The solution was diluted with EA, washed with 0.1M NaOH, dried over sodium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (10 mg, 13%) as a yellow solid. 1H NMR (DMSO-d6) δ 8.25 (s, 1H), 7.39 (ddd, J=8.4, 6.8, 3.2 Hz, 1H), 7.11 (dd, J=11.4, 2.3 Hz, 1H), 6.99-6.80 (m, 1H), 4.84 (d, J=8.8 Hz, 2H), 4.55 (d, J=15.8 Hz, 2H), 4.02 (d, J=5.5 Hz, 2H), 2.97-2.86 (m, 1H), 2.84 (s, 1.5H), 2.81 (s, 1.5H), 2.62 (s, 1.5H), 2.56 (s, 1.5H), 2.25 (d, J=1.7 Hz, 3H), 0.96 (dd, J=6.5, 2.4 Hz, 3H). HPLC (max plot) 99.7%, Rt 2.82 min. UPLC/MS: (MS+) 432.3 ([M+H]+).

reactant | 1,4-bis(diphenylphosphino)butane | 0.01 mmol, 3.8 mg, 0.05 eq. | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | {2-[2-(allyl-methyl-amino)-propoxy]-4-fluoro-phenyl}-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone | 0.18 mmol, 85 mg, 1 eq. | C(C=C)N(C(COC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)C)C | C24H27ClFN5O2
reactant | 2-mercapto-benzoic acid | 0.20 mmol, 31 mg, 1.1 eq. | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | Pd(dba)2 | 0.01 mmol, 5.2 mg, 0.05 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-(2-methylamino-propoxy)-phenyl]-methanone | 10 mg, 13% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=C(C=C3)F)OCC(C)NC)C | C21H23ClFN5O2
